US04820834
1-(4-Chlorophenyl)carbonyl-1,3-dihydro-5-(2-fluorophenyl)-3(RS)-(4-chlorophenyl)carbonylamino-2H-1,4-benzodiazepin-2-one
To a solution of 1,3-dihydro-5-(2-fluorophenyl)-3-amino-2H-1,4-benzodiazepin-2-one (400 mg, 1.49 mmole) in 25 ml of methylene chloride was added p-chlorobenzoyl chloride (380 μl, 3.0 mmole). Triethylamine was added to bring the pH of the reaction mixture to approximately 6 (moist pH paper) followed by 4-dimethylamino pyridine (183 mg, 1.5 mmole). After stirring at room temperature overnight the reaction mixture was diluted with methylene chloride to 200 ml and washed in succession with 10% citric acid solution (3×50 ml), saturated sodium bicarbonate solution, and brine. The organic extracts were dried (MgSO4) and concentrated to give 890 mg of crude product. Silica gel chromatography (hexane-ethyl acetate, 1:1 v/v) afforded the analytical product: m.p. 190°-191° C. TLC: Single spot, Rf =0.70, silica gel (hexane-ethyl acetate, 1:1 v/v).

reactant | 1,3-dihydro-5-(2-fluorophenyl)-3-amino-2H-1,4-benzodiazepin-2-one | 1.49 mmole, 400 mg | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)N | C15H12FN3O
reactant | p-chlorobenzoyl chloride | 3.0 mmole, 380 μl | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylamino pyridine | 1.5 mmole, 183 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-(4-Chlorophenyl)carbonyl-1,3-dihydro-5-(2-fluorophenyl)-3(RS)-(4-chlorophenyl)carbonylamino-2H-1,4-benzodiazepin-2-one | ClC1=CC=C(C=C1)C(=O)N1C(C(N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)F)NC(=O)C2=CC=C(C=C2)Cl)=O | C29H18Cl2FN3O3
